US09216173B2
Dioxane (2.12 mL), water (0.24 mL), tribasic potassium phosphate (300 mg, 1.41 mmol), and 1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (120 mg, 0.58 mmol) were added to 6-bromo-4-methylpyridin-2-amine (88 mg, 0.47 mmol) in a scintillation vial. The vial was purged with argon 3 times before PdCl2(dppf)-CH2Cl2 adduct (34 mg, 0.047 mmol) was added. The vial was purged 3 times with argon, sealed, and heated to 100° C. After 1.5 hours, the reaction was cooled to room temperature, filtered through CELITE (washed with dichloromethane), and diluted with water. The organic layer was dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (0-70% acetone/hexanes, linear gradient) to afford 4-methyl-6-(1-methyl-1H-pyrazol-5-yl)pyridin-2-amine. MS ESI calc'd. for C10H13N4 [M+H]+ 189. found 189. 1H NMR (500 MHz, CDCl3) δ 7.46 (s, 1H), 6.77 (s, 1H), 6.48 (d, J=1.8 Hz, 1H), 6.30 (s, 1H), 4.15 (s, 3H), 2.28 (s, 3H).

reactant | Dioxane | 2.12 mL | O1CCOCC1 | C4H8O2
reactant | potassium phosphate | 1.41 mmol, 300 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.58 mmol, 120 mg | CN1N=CC=C1B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | 6-bromo-4-methylpyridin-2-amine | 0.47 mmol, 88 mg | BrC1=CC(=CC(=N1)N)C | C6H7BrN2
catalyst | PdCl2(dppf) CH2Cl2 | 0.047 mmol, 34 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
solvent | water | 0.24 mL | O | H2O
product | 4-methyl-6-(1-methyl-1H-pyrazol-5-yl)pyridin-2-amine | CC1=CC(=NC(=C1)C1=CC=NN1C)N | C10H12N4
